US04115568
(a) 3-(4-Chloro-2-nitroanilino)-thiophene-4-nitrile
3-(4-Chloro-2-nitroanilino)-2,5-dihydrothiophene-4-nitrile (14.09 g, 0.05 mol) dissolved in xylene (150 ml) was added to a solution of chloranil (12.3 g, 0.05 mol) in hot xylene (100 ml). The mixture was allowed to reflux for 2 hours. After cooling, the xylene was evaporated off under vacuum to leave a red-brown solid which was triturated with methanol to give a brick-red solid. The solid was recrystallised from hot methanol to give red crystals which were filtered off, washed with methanol and dried at 50° C. under vacuum. The dried product so obtained was the title compound, m.p. 214° C.

reactant | 3-(4-Chloro-2-nitroanilino)-2,5-dihydrothiophene-4-nitrile | 0.05 mol, 14.09 g | ClC1=CC(=C(NC=2CSCC2C#N)C=C1)[N+](=O)[O-] | C11H8ClN3O2S
reactant | chloranil | 0.05 mol, 12.3 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(4-Chloro-2-nitroanilino)-thiophene-4-nitrile | ClC1=CC(=C(NC2=CSC=C2C#N)C=C1)[N+](=O)[O-] | C11H6ClN3O2S
